US05356893
1-(4-Bromo-3-methylbenzoyl)azetidine as a white solid (445 mg) m.p. 104°-105° C.
From 4-bromo-3-methylbenzoic acid (400 mg), thionyl chloride (0.5 ml) and azetidine (1 g).

reactant | 4-bromo-3-methylbenzoic acid | 400 mg | BrC1=C(C=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | thionyl chloride | 0.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | azetidine | 1 g | N1CCC1 | C3H7N
product | 1-(4-Bromo-3-methylbenzoyl)azetidine | BrC1=C(C=C(C(=O)N2CCC2)C=C1)C | C11H12BrNO
